US05800733
0.9 g of triethylamine and then 0.5 g of methanesulphonyl chloride were added dropwise at -25° C. while stirring to a solution of 2.0 g of trans-4-(trans-4-[3-acryloyloxypropyl]cyclohexyl)-cyclohexanecarboxylic acid and 40 ml of tetrahydrofuran. The reaction mixture was stirred at -25° C. for 1 hour, then treated with 0.28 g of 3,4-dihydroxybenzonitrile and 0.05 g of 4-(dimethylamino)pyridine, stirred at room temperature overnight, poured into 100 ml of water and then extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed twice with 100 ml of water each time, dried over magnesium sulphate, filtered and subsequently concentrated. Chromatographic purification of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) and two-fold recrystallization from a cyclohexane/ethyl acetate mixture (vol. 8:2) of the fractions which were pure according to thin-layer chromaography gave 1.1 g of 3,4-bis[trans-4-(trans-4-[3-acryloyloxypropyl]cyclohexyl)-cyclohexanecarbonyloxy]benzonitrile.

reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-4-(trans-4-[3-acryloyloxypropyl]cyclohexyl)-cyclohexanecarboxylic acid | 2.0 g | C(C=C)(=O)OCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C19H30O4
reactant | 3,4-dihydroxybenzonitrile | 0.28 g | OC=1C=C(C#N)C=CC1O | C7H5NO2
catalyst | 4-(dimethylamino)pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,4-bis[trans-4-(trans-4-[3-acryloyloxypropyl]cyclohexyl)-cyclohexanecarbonyloxy]benzonitrile | 1.1 g | C(C=C)(=O)OCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)OC=1C=C(C#N)C=CC1OC(=O)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCOC(C=C)=O | C45H61NO8
